### PR TITLE
[Merged by Bors] - feat(Algebra): characterise when a quotient is nontrivial

### PR DESCRIPTION
**Pull request by YaelDillies**
From BrauerGroup and ClassFieldTheory

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/CosetCover.lean [hunk 1]
```diff
@@ -373,21 +373,19 @@ section Subspace
...
-theorem Subspace.biUnion_ne_univ_of_top_notMem (hs : ⊤ ∉ s) :
-    ⋃ p ∈ s, (p : Set E) ≠ Set.univ := by
+/-- A vector space over an infinite field cannot be a finite union of proper subspaces. -/
+theorem Subspace.biUnion_ne_univ_of_top_notMem (hs : ⊤ ∉ s) : ⋃ p ∈ s, (p : Set E) ≠ Set.univ := by
   intro hcovers
   have ⟨p, hp, hfi⟩ := Submodule.exists_finiteIndex_of_cover hcovers
   have : Finite (E ⧸ p) := AddSubgroup.finite_quotient_of_finiteIndex
-  have : Nontrivial (E ⧸ p) :=
-    Submodule.Quotient.nontrivial_of_lt_top p (ne_of_mem_of_not_mem hp hs).lt_top
+  have : Nontrivial (E ⧸ p) := Submodule.Quotient.nontrivial_iff.2 (ne_of_mem_of_not_mem hp hs)
```
Comment (erdOne) [inline Mathlib/GroupTheory/CosetCover.lean]:
```suggestion
  have : Nontrivial (E ⧸ p) := Submodule.Quotient.nontrivial_iff.mpr (ne_of_mem_of_not_mem hp hs)
```

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 2]
```diff
@@ -447,7 +447,7 @@ theorem FinrankQuotientMap.span_eq_top [IsDomain R] [IsDomain S] [Algebra K L] [
   · rw [eq_comm, Submodule.restrictScalars_eq_top_iff, Ideal.span_singleton_eq_top]
     refine IsUnit.mk0 _ ((map_ne_zero_iff (algebraMap R L) hRL).mpr ?_)
     refine ne_zero_of_map (f := Ideal.Quotient.mk p) ?_
-    haveI := Ideal.Quotient.nontrivial hp
+    haveI := Ideal.Quotient.nontrivial_iff.2 hp
```
Comment (erdOne) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean]:
```suggestion
    haveI := Ideal.Quotient.nontrivial_iff.mpr hp
```

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 3]
```diff
@@ -77,12 +77,11 @@ instance : Inhabited (AdjoinRoot f) :=
...
-  Ideal.Quotient.nontrivial
-    (by
-      simp_rw [Ne, span_singleton_eq_top, Polynomial.isUnit_iff, not_exists, not_and]
-      rintro x hx rfl
-      exact h (degree_C hx.ne_zero))
+protected theorem nontrivial [IsDomain R] (h : degree f ≠ 0) : Nontrivial (AdjoinRoot f) := by
+    simp only [AdjoinRoot, Quotient.nontrivial_iff, Ne, span_singleton_eq_top,
+      Polynomial.isUnit_iff, not_exists, not_and]
+    rintro x hx rfl
+    exact h (degree_C hx.ne_zero)
```
Comment (erdOne) [inline Mathlib/RingTheory/AdjoinRoot.lean]:
```suggestion
  simp only [AdjoinRoot, Quotient.nontrivial_iff, Ne, span_singleton_eq_top,
    Polynomial.isUnit_iff, not_exists, not_and]
  rintro x hx rfl
  exact h (degree_C hx.ne_zero)
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean [hunk 4]
```diff
@@ -93,7 +93,7 @@ theorem IsNoetherianRing.exists_relSeries_isQuotientEquivQuotientPrime :
       s.head = ⊥ ∧ s.last = ⊤ := by
   refine WellFoundedGT.induction_top ⟨⊥, .singleton _ ⊥, rfl, rfl⟩ ?_
   rintro N hN ⟨s, hs₁, hs₂⟩
-  have := Submodule.Quotient.nontrivial_of_lt_top _ hN.lt_top
+  have := Submodule.Quotient.nontrivial_iff.2 hN
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Finiteness.lean]:
```suggestion
  have := Submodule.Quotient.nontrivial_iff.mpr hN
```

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean [hunk 5]
```diff
@@ -89,7 +91,7 @@ instance noZeroDivisors [hI : I.IsPrime] : NoZeroDivisors (R ⧸ I) where
         (Or.inr ∘ eq_zero_iff_mem.2)
 
 instance isDomain [hI : I.IsPrime] : IsDomain (R ⧸ I) :=
-  let _ := Quotient.nontrivial hI.1
+  let _ := Quotient.nontrivial_iff.2 hI.1
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/Basic.lean]:
```suggestion
  let _ := Quotient.nontrivial_iff.mpr hI.1
```

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean [hunk 6]
```diff
@@ -122,7 +124,7 @@ protected noncomputable abbrev groupWithZero [hI : I.IsMaximal] :
     mul_inv_cancel := fun a (ha : a ≠ 0) =>
       show a * dite _ _ _ = _ by rw [dif_neg ha]; exact Classical.choose_spec (exists_inv ha)
     inv_zero := dif_pos rfl
-    __ := Quotient.nontrivial hI.out.1 }
+    __ := Quotient.nontrivial_iff.2 hI.out.1 }
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/Basic.lean]:
```suggestion
    __ := Quotient.nontrivial_iff.mpr hI.out.1 }
```

File: Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean [hunk 7]
```diff
@@ -41,7 +41,7 @@ lemma ringKrullDim_quotient_succ_le_of_nonZeroDivisor
   have : Nonempty (PrimeSpectrum.zeroLocus (R := R) (Ideal.span {r})) := by
     rwa [Set.nonempty_coe_sort, Set.nonempty_iff_ne_empty, ne_eq,
       PrimeSpectrum.zeroLocus_empty_iff_eq_top]
-  have := Ideal.Quotient.nontrivial hr'
+  have := Ideal.Quotient.nontrivial_iff.2 hr'
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/NonZeroDivisors.lean]:
```suggestion
  have := Ideal.Quotient.nontrivial_iff.mpr hr'
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 8]
```diff
@@ -470,7 +470,7 @@ noncomputable def _root_.Polynomial.IsDistinguishedAt.algEquivQuotient :
     have hI : I ≠ ⊤ := by
       rintro rfl
       exact not_subsingleton _ ‹IsAdicComplete ⊤ A›.toIsHausdorff.subsingleton
-    have := Ideal.Quotient.nontrivial hI
+    have := Ideal.Quotient.nontrivial_iff.2 hI
```
Comment (erdOne) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean]:
```suggestion
    have := Ideal.Quotient.nontrivial_iff.mpr hI
```

File: Mathlib/RingTheory/NoetherNormalization.lean [hunk 9]
```diff
@@ -255,7 +255,7 @@ theorem exists_integral_inj_algHom_of_quotient (I : Ideal (MvPolynomial (Fin n)
       exact ⟨d + 1, le_rfl, _, bij.1, isIntegral_of_surjective _ bij.2⟩
     · obtain ⟨f, fi, fne⟩ := Submodule.exists_mem_ne_zero_of_ne_bot eqi
       set ϕ := kerLiftAlg <| hom2 f I
-      have := Quotient.nontrivial hi
+      have := Quotient.nontrivial_iff.2 hi
```
Comment (erdOne) [inline Mathlib/RingTheory/NoetherNormalization.lean]:
```suggestion
      have := Quotient.nontrivial_iff.mpr hi
```

File: Mathlib/RingTheory/KrullDimension/Regular.lean [hunk 10]
```diff
@@ -54,7 +54,7 @@ theorem supportDim_le_supportDim_quotSMulTop_succ_of_mem_jacobson {x : R}
   by_cases hp0 : p.length = 0
   · have hb : supportDim R (QuotSMulTop x M) ≠ ⊥ :=
       (supportDim_ne_bot_iff_nontrivial R (QuotSMulTop x M)).mpr <|
-        Submodule.Quotient.nontrivial_of_ne_top _ <|
+        Submodule.Quotient.nontrivial_iff.2 <|
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Regular.lean]:
```suggestion
        Submodule.Quotient.nontrivial_iff.mpr <|
```

File: Mathlib/RingTheory/LocalRing/Quotient.lean [hunk 11]
```diff
@@ -113,7 +113,7 @@ lemma exists_maximalIdeal_pow_le_of_isArtinianRing_quotient
     (I : Ideal R) [IsArtinianRing (R ⧸ I)] : ∃ n, maximalIdeal R ^ n ≤ I := by
   by_cases hI : I = ⊤
   · simp [hI]
-  have : Nontrivial (R ⧸ I) := Ideal.Quotient.nontrivial hI
+  have : Nontrivial (R ⧸ I) := Ideal.Quotient.nontrivial_iff.2 hI
```
Comment (erdOne) [inline Mathlib/RingTheory/LocalRing/Quotient.lean]:
```suggestion
  have : Nontrivial (R ⧸ I) := Ideal.Quotient.nontrivial_iff.mpr hI
```

File: Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean [hunk 12]
```diff
@@ -662,7 +662,7 @@ variable {g : A⟦X⟧} {f : A[X]} {h : A⟦X⟧} {I : Ideal A} (H : g.IsWeierst
 include H
 
 theorem map_ne_zero_of_ne_top (hI : I ≠ ⊤) : g.map (Ideal.Quotient.mk I) ≠ 0 := by
-  have := Ideal.Quotient.nontrivial hI
+  have := Ideal.Quotient.nontrivial_iff.2 hI
```
Comment (erdOne) [inline Mathlib/RingTheory/PowerSeries/WeierstrassPreparation.lean]:
```suggestion
  have := Ideal.Quotient.nontrivial_iff.mpr hI
```

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 13]
```diff
@@ -66,9 +66,9 @@ lemma subsingleton_linearMap_iff [IsNoetherianRing R] [Module.Finite R M] [Modul
     let Mₚ := LocalizedModule p'.asIdeal.primeCompl M
     let Nₚ' := Nₚ ⧸ (IsLocalRing.maximalIdeal (Localization.AtPrime p)) • (⊤ : Submodule Rₚ Nₚ)
     have ntr : Nontrivial Nₚ' :=
-      Submodule.Quotient.nontrivial_of_lt_top _ (Ne.lt_top'
-        (Submodule.top_ne_ideal_smul_of_le_jacobson_annihilator
-        (IsLocalRing.maximalIdeal_le_jacobson (Module.annihilator Rₚ Nₚ))))
+      Submodule.Quotient.nontrivial_iff.2 <| .symm <|
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean]:
```suggestion
      Submodule.Quotient.nontrivial_iff.mpr <| .symm <|
```

File: Mathlib/RingTheory/Regular/RegularSequence.lean [hunk 14]
```diff
@@ -498,8 +497,8 @@ def ndrecIterModByRegularWithRing
 
 lemma quot_ofList_smul_nontrivial {rs : List R} (h : IsRegular M rs)
     (N : Submodule R M) : Nontrivial (M ⧸ Ideal.ofList rs • N) :=
-  Submodule.Quotient.nontrivial_of_lt_top _ <|
-    lt_of_le_of_lt (smul_mono_right _ le_top) h.top_ne_smul.symm.lt_top
+  Submodule.Quotient.nontrivial_iff.2 <|
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/RegularSequence.lean]:
```suggestion
  Submodule.Quotient.nontrivial_iff.mpr <|
```

File: Mathlib/RingTheory/Unramified/LocalRing.lean [hunk 15]
```diff
@@ -65,8 +65,8 @@ lemma FormallyUnramified.isField_quotient_map_maximalIdeal [FormallyUnramified R
   have : Module.Finite (ResidueField R) (S ⧸ mR) := FormallyUnramified.finite_of_free _ _
   have : IsReduced (S ⧸ mR) := FormallyUnramified.isReduced_of_field (ResidueField R) (S ⧸ mR)
   have : IsArtinianRing (S ⧸ mR) := isArtinian_of_tower (ResidueField R) inferInstance
-  have : Nontrivial (S ⧸ mR) := Ideal.Quotient.nontrivial fun e ↦
-    (maximalIdeal.isMaximal S).ne_top (top_le_iff.mp <| e.symm.trans_le hmR)
+  have : Nontrivial (S ⧸ mR) :=
+    Ideal.Quotient.nontrivial_iff.2 <| ne_top_of_le_ne_top (maximalIdeal.isMaximal S).ne_top hmR
```
Comment (erdOne) [inline Mathlib/RingTheory/Unramified/LocalRing.lean]:
```suggestion
    Ideal.Quotient.nontrivial_iff.mpr <| ne_top_of_le_ne_top (maximalIdeal.isMaximal S).ne_top hmR
```

**Comment by YaelDillies** [comment]
Yes, and it has been agreed not to waste time in review pointing out such guidelines that have not been written down

**Comment by YaelDillies** [comment]
Yes, but these are agreed upon. This is the first time that someone is bringing `.mp` vs `.1` in review, hence why I say this is not agreed upon.

**Comment by YaelDillies** [comment]
Hence why I say this should either be written in the style guidelines, or not brought up at all...
